US07547691B2
(S)-2-{5-Chloro-2-[3-(2,4-dimethylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide tri-hydrochloride
Using the method of 2-{5-chloro-2-[2-(1-methylpiperidin-4-yl)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid amide di-hydrochloride, the title compound is synthesized from (S)-2-{5-chloro-2-[3-(2-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide and isolated as a yellow solid. ES+(m/z) 499 (35Cl) and 501 (37Cl) [M(free base)+H].

reactant | 2-{5-chloro-2-[2-(1-methylpiperidin-4-yl)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid amide di-hydrochloride | Cl.Cl.ClC=1C(=NC(=NC1)NCCC1CCN(CC1)C)C1=CC2=C(S1)C=CC=C2C(=O)N
reactant | (S)-2-{5-chloro-2-[3-(2-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide | C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)NCCCN2[C@H](CNCC2)C | C24H29ClN6OS
product | (S)-2-{5-Chloro-2-[3-(2,4-dimethylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide tri-hydrochloride | Cl.Cl.Cl.C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)NCCCN2[C@H](CN(CC2)C)C | InChI=1S/C25H31ClN6OS.3ClH/c1-16-15-31(2)11-12-32(16)10-4-9-27-25-28-14-20(26)23(30-25)22-13-19-18(5-3-6-21(19)34-22)24(33)29-17-7-8-17;;;/h3,5-6,13-14,16-17H,4,7-12,15H2,1-2H3,(H,29,33)(H,27,28,30);3*1H/t16-;;;/m0.../s1
